data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9887,"CC[C+:1](C)C1=CC=CC=C1.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,9011,"C=CC(=O)OC(C)(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1834,"CC(=O)[O-].CC(C)(C)[OH:1].CC(C)CC[C:2]([N+]1=CC=C(N(C)C)C=C1)=[O:3].CCN(CC)CC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3726,"F[B-](F)(F)[O:1][C:2]12NC3=CC=CC=C3[C+:3]1CCC[CH2:4]2|(1, 2);((2, 4), 3)"
train,pmechdb_split_0,0,4552,"CCOC(=O)NN(C(OCC)=[O:1])P(OC(C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(COC1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1121,"CC(CCC(=O)C1=CC=CC=C1)=[O:1].O=S(=O)([O-])O.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3127,"CC1C=CC[CH:1]([H:2])[CH:3]1[Br:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8046,"CC1=C(O[Si](C(C)C)(C(C)C)C(C)C)CCC(C)(C[OH:1])C1.CC1=CC(C(C)(C)C)=NC(C(C)(C)C)=C1.COCC1C(OC)C(OC)C(OC)[CH:2]=[O+:3]1.CS(=O)(=O)OSC1=CC=CC=C1.CS(=O)(=O)[O-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5286,"N#CC1=CC=C[C:1](S(=O)(=O)O)([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,956,"CCCCCC1=CC=C[N+:1]([CH:2]2CC(O)C(COC)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7392,"CO.COC1=C([OH:1])C2=C(C=C1)CC1C3CC=C(O)[CH+:2]C23CCN1CC1CC1.CS(=O)(=O)O.CS(=O)(=O)[O-]|(1, 2)"
train,pmechdb_split_0,0,2867,"C=CC(=O)[O:1][C:2](C)(O)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7385,"CC(=O)[O-:1].OC1([NH+:2](C2=CC=CC=C2)[H:3])CCCCC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,997,"CC(CC[CH:1](C)[Br:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6707,"CC(C)C1CCC2C3CCC4=CC=CC=C4C3C(=O)[CH-:1][C:2]12[OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4636,"C[CH:1]=[C:2](C1=CC=CC=C1)[O:3]CCO.[Br:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,176,"CC(C)CC(C1=CC=CC=C1)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9046,"CCC(CC(C)C)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4257,"CC[O:1]C.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8887,"C[P:1](C)(C)=[S:2]|((1, 2), 2)"
train,pmechdb_split_0,0,4103,"CC(=O)CC[C:1](C)([NH:2]C1=NC(Br)=CC=C1)[OH2+:3].CC(=O)[O-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1024,"C1CO[C:1]([NH2:2])([OH2+:3])O1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10304,"CN(C)[CH:1]=[S:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3699,"CC(C)=CCCC(C)=C[CH2:1][OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7634,"C[NH:1][CH2:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9355,"[O-]CCCC[CH:1]([H:2])[CH:3]=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5013,"CC(O)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,641,"COC(=O)C12CCCC(Br)(C1=O)C(C)([OH:1])CC2.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5638,"C1OC1CC1[CH2:1][O:2]1.CC(C)(C)[Si](C)(C)OC(COCC1=CC=CC=C1)C[C:3]1([Li:4])SCCCS1.CC(C)C|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,10261,"C[NH+:1]=[S:2](C)[O-]|((2, 1), 1)"
train,pmechdb_split_0,0,3716,"C[C:1](C)(C1=C(CCO)C=CC=C1)[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,5521,"CO[P:1](OC)OC.[CH3:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3490,"CCCC1C(CC)C(CC)C(C)C([O+:1](CCN(C)CCCl)[H:2])C1C(C)CC.CCCC1C(CC)C(CC)C(C)C([OH:3])C1C(C)CC.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1390,"COC1=C2OC3C45CCN(CC6CC6)C(CC(=C24)C=C1)C5(O)CCC3([NH2+]N)[O-:1].OCCOCCO.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2737,"CC(C)=CCC12C(=O)CCCC1[O:1]2.O=S(=O)(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1395,"COC(=O)C1(NC(=O)C2=CC=CC=C2)CCC(=[O+:1][Si-:2](C)(C)(C)F)CC1OC.[Na+].[OH-]|((2, 1), 1)"
train,pmechdb_split_0,0,2289,"O=C(C[NH2:1])NC1=C(C(=O)C2=NC=CC=C2)C=CC=C1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1261,"O=C[O-].OC1(CC[CH:1]=[CH2:2])C2=C(C=CC=C2)[NH+:3]=[C:4]1C1=C(Br)C=CC=C1|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3387,"CC1[C:1](C2=CC=CC=C2)([O:2][Si](C)(C)C)[OH+:3]1.O=C([O-])C1=CC=CC(Cl)=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3551,"[CH:1](=[SH+:2])[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4384,"CCOCC.O.O=S(=O)([O-])O.OC1=CC=C(C[C:1](C2=C(O)C=C(O)C=C2O)([NH3+:2])[OH:3])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8664,"CC(=O)[O-:1].CO[P+:2](O)(N=[N+]=[N-])OC|(1, 2)"
train,pmechdb_split_0,0,5252,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.OC1=C(OC2([OH:3])CCCCC2)C=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9233,"C=CC1C=CCC(CC(C)CC(=C)C[Si](C)(C)C)O1.CC(C)OC1=CC=CC(OC(C)C)=C1C(=O)OC(C(=O)O)C1O[B:1](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)OC1=O.CC1=CCOC(C=CC(O[Si](C)(C)C(C)(C)C)C(CC=CC=[O:2])O[Si](C)(C)C(C)(C)C)C1|(2, 1)"
train,pmechdb_split_0,0,9662,"CC(=O)C[C:1]([N+]1=CC=C(N(C)C)C=C1)=[O:2].O=C1C=CC(C#CC2=CC=CC=C2)([O-:3])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7318,"Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C=C(C(=O)OC)C(C)[O:1][H:2].O=C1CCC(=O)[N-:3]1|(3, 2);((2, 1), 1)"
